US05516665
An aqueous medium is prepared that contains GalNAc-1-P (25 mg, 73 μmol), UDP (35 mg, 73 μmol), PEP Na3 salt (20 mg, 85 μmol), EDTA (3 mM), and MgCl2 (5 mM) in HEPES buffer (100 mM, 5 mL) and is adjusted to a pH value of 7.5 with NaOH. Freeze-dried bakers' yeast cells (50 mg) and pyruvate kinase (PK; 200 U) are added to the aqueous medium and the resulting admixture is stirred for about 10 hours at 23° C. under an argon atmosphere. The yeast cells provide a ready source of UDP-GalNAc pyrophorylase.

reactant | UDP | 73 μmol, 35 mg | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O)O)O | C9H14N2O12P2
reactant | EDTA | 3 mM | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | NaOH | [OH-].[Na+]
reactant | pyruvate | C(C(=O)C)(=O)[O-]
reactant | HEPES | 100 mM, 5 mL | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
product | UDP-GalNAc | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
